US08808742B2
Step G: 1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methylphenyl)cyclopropane-1-sulfonamide
According to the general procedure B, 1-allyl-cyclopropanesulfonyl chloride (142 mg, 142 mg) was reacted with 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)-3-methylbenzene-1,2-diamine (150 mg, 0.4 mmol) to obtain the title product (100 mg, 47%); m/z=521 [M−1]−.

reactant | 1-allyl-cyclopropanesulfonyl chloride | 142 mg | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)-3-methylbenzene-1,2-diamine | 0.4 mmol, 150 mg | FC1=CC(=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N)C | C13H10F3IN2
product | 1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methylphenyl)cyclopropane-1-sulfonamide | 100 mg, 47% | C(C=C)C1(CC1)S(=O)(=O)NC1=C(C(=C(C=C1C)F)F)NC1=C(C=C(C=C1)I)F | C19H18F3IN2O2S
